* /Users/wentaojiang/Documents/GitHub/PlayGround/20260131_LTSpice/Draft1.asc
D1 0 N002 1N4148
C1 N001 N002 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
V1 N001 0 SINE(0 6 5000) AC 0 Rser=50
D2 N002 N003 1N4148
D3 N003 N004 1N4148
D4 N004 N005 1N4148
D6 N006 N007 1N4148
D5 N005 N006 1N4148
D7 N008 N009 1N4148
D8 N007 N008 1N4148
D9 N010 N011 1N4148
D10 N009 N010 1N4148
D11 N012 N013 1N4148
D12 N011 N012 1N4148
C2 N001 N004 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C3 N001 N006 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C4 N001 N008 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C5 N001 N010 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C6 N001 N012 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C7 N013 0 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C8 N011 0 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C9 N009 0 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C10 N007 0 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C11 N003 0 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C12 N005 0 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
XU1 0 N015 N031 N014 N032 N015 N030 N014 NE555
V2 N014 0 12 Rser=1
C13 N032 0 10n
C14 N015 0 10n
R1 N014 N030 1k
R2 N015 N030 13k
D13 0 N018 1N4148
C15 N016 N018 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
D14 N018 N019 1N4148
D15 N019 N020 1N4148
D16 N020 N021 1N4148
D17 N022 N023 1N4148
D18 N021 N022 1N4148
D19 N024 N025 1N4148
D20 N023 N024 1N4148
D21 N026 N027 1N4148
D22 N025 N026 1N4148
D23 N028 N029 1N4148
D24 N027 N028 1N4148
C16 N016 N020 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C17 N016 N022 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C18 N016 N024 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C19 N016 N026 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C20 N016 N028 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C21 N029 0 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C22 N027 0 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C23 N025 0 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C24 N023 0 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C25 N019 0 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C26 N021 0 {CC} V=X Rser=1m Lser=0 mfg=" ---" pn=" ---" type=" ---"
C27 N016 N017 10µ
Q1 N014 N031 N017 0 NPN
Q2 0 N031 N017 0 PNP
.model D D
.lib /Users/wentaojiang/Library/Application Support/LTspice/lib/cmp/standard.dio
.model NPN NPN
.model PNP PNP
.lib /Users/wentaojiang/Library/Application Support/LTspice/lib/cmp/standard.bjt
.tran 0 2 0 1m
.param CC=1u
.lib NE555.sub
.backanno
.end
